US07713994B2
Following the acetylation and desilylation procedure employed for the preparation of (2E)-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-2-methylbut-2-enamide, (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione (65 mg, 0.11 mmol) is reacted with acid chloride derived from 2-dimethylaminomethyl acrylic acid (Wissner, A.; Overbeek, E.; Reich, M. F.; Floyd, M. B.; Johnson, B. D.; Mamuya, N.; Rosfjord, E. C.; Discafani, C.; Davis, R.; Shi, X.; Rabindran, S. K.; et al. J. Med. Chem. 46; 1; 2003; 49-63, 0.18 g, 1.1 mmol). Following desilylation and precipitation, 2-[(dimethylamino)methyl]-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]acrylamide is obtained as a solid (19 mg, 32%).

reactant | (2E)-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-2-methylbut-2-enamide | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(\C(=C\C)\C)=O | C22H20IN3O4
reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.11 mmol, 65 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34IN3O3Si
reactant | 2-dimethylaminomethyl acrylic acid | CN(C)CC(C(=O)O)=C | C6H11NO2
product | 2-[(dimethylamino)methyl]-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]acrylamide | CN(C)CC(C(=O)NC1=C(C=C(C=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)O)=C | C23H23IN4O4
